US08871766B2
A) methyl 2-(1,3-oxazol-5-yl)benzoate
To a solution of methyl 2-formylbenzoate (15 g) and tosylmethyl isocyanide (18 g) in methanol (250 mL) was added potassium carbonate (15 g), and the mixture was heated under reflux for 16 hr. The reaction mixture was concentrated under reduced pressure, the residue was diluted with ethyl acetate, and the mixture was washed with water and saturated brine. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (4.0 g).

reactant | methyl 2-formylbenzoate | 15 g | C(=O)C1=C(C(=O)OC)C=CC=C1 | C9H8O3
reactant | tosylmethyl isocyanide | 18 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 250 mL | CO | CH4O
product | methyl 2-(1,3-oxazol-5-yl)benzoate | 4.0 g | O1C=NC=C1C1=C(C(=O)OC)C=CC=C1 | C11H9NO3
